US08030499B2
Step 251-1: Synthesis of 5-chloro-3-hydroxy-3-(2-methoxy-4-methylphenyl)-1,3-dihydro-2H-indol-2-one
With 22.3 g of 3-methoxy toluene and 33.1 g of 5-chloroisatin as starting materials, 6.98 g of the title compound (colorless solid) was obtained by a similar method to Step 239-1.

reactant | 3-methoxy toluene | 22.3 g | COC=1C=C(C=CC1)C | C8H10O
reactant | 5-chloroisatin | 33.1 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
product | 5-chloro-3-hydroxy-3-(2-methoxy-4-methylphenyl)-1,3-dihydro-2H-indol-2-one | 6.98 g | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C=C(C=C1)C)OC)O | C16H14ClNO3
